* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R2 N001 N002 6.8k
R5 N003 0 33k
I1 0 N001 12m
R4 N002 N004 1.2k
R1 N004 N003 15k

.end